US03987053
EXAMPLE 14: 1-Methyl-2-nitro-5-imidazolecarboxaldehyde thiosemicarbazone
A solution of 1.42 g. of thiosemicarbazide in water is added to a solution of 1.8 g. of 1-methyl-2-nitro-5-imidazolecarboxaldehyde in methanol. The solid which precipitates is recovered on the filter. Yield: 2.2 g., m.p. 282°-287° C.

reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | 1-methyl-2-nitro-5-imidazolecarboxaldehyde | CN1C(=NC=C1C=O)[N+](=O)[O-] | C5H5N3O3
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 1-Methyl-2-nitro-5-imidazolecarboxaldehyde thiosemicarbazone | CN1C(=NC=C1C=NNC(=S)N)[N+](=O)[O-] | C6H8N6O2S
